data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1](=[O:2])([c:9]1[cH:6][c:10]([N+:14](=[O:5])[O-:16])[cH:15][c:8]2[c:23]1[n:12][o:22][n+:24]2[O-:3])[O-:11].[O-:4][c:7]1[cH:20][cH:17][c:19]([CH3:13])[cH:18][cH:21]1>>[N+:1](=[O:2])([C:9]1=[CH:6][C:10](=[N+:14]([O-:5])[O-:16])[CH:15]([O:4][c:7]2[cH:20][cH:17][c:19]([CH3:13])[cH:18][cH:21]2)[c:8]2[c:23]1[n:12][o:22][n+:24]2[O-:3])[O-:11]", "epd": [["LP-/Sigma+", [4], [4, 15]], ["Pi-/Pi+", [15, 10], [10, 14]], ["Pi-/LP+", [14, 5], [5]]]}
{"reaction_name": "Mukaiyama aldol addition", "rsmi": "[O:1]([Si:2]([CH3:3])([CH3:4])[CH3:5])[C:11](=[CH2:6])[CH3:10].[O:7]=[CH:9][CH3:8]>>[O:1]=[C:11]([CH2:6][CH:9]([O-:7])[CH3:8])[CH3:10].[Si+:2]([CH3:3])([CH3:4])[CH3:5]", "epd": [["LP-/Pi+", [1], [1, 11]], ["Pi-/Sigma+", [6, 11], [6, 9]], ["Pi-/LP+", [7, 9], [7]], ["Sigma-/LP+", [1, 2], [1]]]}
{"reaction_name": "Activated alkene amination", "rsmi": "[CH:1]([Cl:2])=[CH:6][C:5](=[O:3])[CH3:7].[NH2-:4]>>[CH:1]([NH2:4])=[CH:6][C:5](=[O:3])[CH3:7].[Cl-:2]", "epd": [["LP-/Sigma+", [4], [1, 4]], ["Sigma-/LP+", [1, 2], [2]]]}
{"reaction_name": "Grieco elimination", "rsmi": "[c:1]1([Se:7](=[O:10])[CH:9]([CH3:4])[C:8]([CH3:12])([H:13])([H:14]))[cH:5][cH:2][cH:11][cH:3][cH:6]1>>[CH3:4][CH:9]=[C:8]([CH3:12])[H:14].[c:1]1([Se:7][O:10][H:13])[cH:5][cH:2][cH:11][cH:3][cH:6]1", "epd": [["Sigma-/Pi+", [8, 13], [8, 9]], ["Pi-/LP+", [7, 10], [10]], ["LP-/Sigma+", [10], [10, 13]], ["Sigma-/LP+", [7, 9], [7]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:1]1[c:9]2[c:10]3[cH:2][cH:12][cH:22][cH:14][c:32]3[n:27]([CH:3]=[CH2:8])[c:31]2[cH:13][cH:21][cH:11]1.[cH:4]1[c:15]([CH+:30][c:16]2[cH:5][c:19]([F:25])[cH:29][c:20]([F:26])[cH:6]2)[cH:7][c:17]([F:23])[cH:28][c:18]1[F:24]>>[cH:1]1[c:9]2[c:31]([cH:13][cH:21][cH:11]1)[N+:27](=[CH:3][CH2:8][CH:30]([c:15]1[cH:4][c:18]([F:24])[cH:28][c:17]([F:23])[cH:7]1)[c:16]1[cH:5][c:19]([F:25])[cH:29][c:20]([F:26])[cH:6]1)[c:32]1[c:10]-2[cH:2][cH:12][cH:22][cH:14]1", "epd": [["LP-/Pi+", [27], [3, 27]], ["Pi-/Sigma+", [8, 3], [8, 30]]]}
{"reaction_name": "Michael addition", "rsmi": "[O:1]=[C:24]1[N:5]([CH3:20])[C:22](=[O:7])[N:6]([CH3:21])[C:25](=[O:2])[C:16]1=[CH:19][c:8]1[cH:27][cH:3][c:17]([O:14][CH3:10])[cH:4][cH:28]1.[cH:9]1[cH:12][c:13]2[c:29]([cH:18][cH:30]1)[CH:26]=[CH:11][CH:23]2[Li:15]>>[Li+:15].[O-:1][c:24]1[n:5]([CH3:20])[c:22](=[O:7])[n:6]([CH3:21])[c:25](=[O:2])[c:16]1[CH:19]([c:8]1[cH:27][cH:3][c:17]([O:14][CH3:10])[cH:4][cH:28]1)[CH:23]1[CH:11]=[CH:26][c:29]2[c:13]1[cH:12][cH:9][cH:30][cH:18]2", "epd": [["Sigma-/Sigma+", [23, 15], [23, 19]], ["Pi-/Pi+", [19, 16], [16, 24]], ["Pi-/LP+", [24, 1], [1]]]}
{"reaction_name": "Anomerization through oxocarbenium ion", "rsmi": "[CH2:1]1[CH2:2][CH2:5][O:3][CH:4]([Cl:7])[CH2:6]1>>[CH2:1]1[CH2:2][CH2:5][O:3][CH+:4][CH2:6]1.[Cl-:7]", "epd": [["Sigma-/LP+", [4, 7], [7]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][C:16](=[CH:4][c:11]1[cH:14][cH:8][cH:22][cH:9][cH:15]1)[O:21][CH2:23][CH3:13].[c:2]1([N+:6](=[O:19])[O-:20])[s:7][cH:3][c:10]([N+:5](=[O:12])[O-:17])[cH:18]1>>[O:1]=[C:16]([CH:4]([CH:3]1[S:7][C:2]([N+:6](=[O:19])[O-:20])=[CH:18][C:10]1=[N+:5]([O-:12])[O-:17])[c:11]1[cH:14][cH:8][cH:22][cH:9][cH:15]1)[O:21][CH2:23][CH3:13]", "epd": [["LP-/Pi+", [1], [16, 1]], ["Pi-/Sigma+", [4, 16], [4, 3]], ["Pi-/Pi+", [3, 10], [10, 5]], ["Pi-/LP+", [5, 12], [12]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[cH:1]1[cH:10][c:28]([CH:3]=[C:34]2[CH:29]=[CH:15][C:26](=[N+:27]([O-:20])[O-:21])[CH:16]=[CH:30]2)[cH:11][cH:2][c:12]1[N+:31](=[O:5])[O-:13].[n+:4]1([CH3:17])[c:6]2[cH:18][cH:24][cH:22][cH:8][c:32]2[cH:14][c:33]2[c:7]1[cH:19][cH:25][cH:23][cH:9]2>>[cH:1]1[cH:10][c:28]([CH:3]([CH:14]2[c:32]3[c:6]([cH:18][cH:24][cH:22][cH:8]3)[N:4]([CH3:17])[c:7]3[cH:19][cH:25][cH:23][cH:9][c:33]32)[c:34]2[cH:29][cH:15][c:26]([N+:27](=[O:20])[O-:21])[cH:16][cH:30]2)[cH:11][cH:2][c:12]1[N+:31](=[O:5])[O-:13]", "epd": [["LP-/Pi+", [20], [27, 20]], ["Pi-/Pi+", [26, 27], [15, 26]], ["Pi-/Pi+", [29, 15], [34, 29]], ["Pi-/Sigma+", [3, 34], [3, 14]], ["Pi-/Pi+", [14, 32], [32, 6]], ["Pi-/LP+", [6, 4], [4]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[Cl:2][C:25]1=[C:27]([Cl:19])[C:5](=[O:7])[C:4](=[O:6])[C:28]([Cl:20])=[C:26]1[Cl:3].[cH:1]1[cH:13][cH:8][c:18]([C:15](=[C:10]2[N:11]([CH3:23])[C:16]([CH3:22])=[C:29]([CH3:24])[S:17]2)[O:21][CH3:12])[cH:9][cH:14]1>>[cH:1]1[cH:13][cH:8][c:18]([C:15]([C:4]2([O-:6])[C:5](=[O:7])[C:27]([Cl:19])=[C:25]([Cl:2])[C:26]([Cl:3])=[C:28]2[Cl:20])([c:10]2[n+:11]([CH3:23])[c:16]([CH3:22])[c:29]([CH3:24])[s:17]2)[O:21][CH3:12])[cH:9][cH:14]1", "epd": [["LP-/Pi+", [11], [10, 11]], ["Pi-/Sigma+", [15, 10], [15, 4]], ["Pi-/LP+", [4, 6], [6]]]}
